US04228233
41 g (0.2 mole) of 1,4-dihydroxynaphthoic acid was dissolved in 200 ml DMF, into which was added dropwise 80 g of a 28% methanol solution of sodium methoxide (0.4 mole) and bubbling nitrogen therethrough at room temperature. Then, while controlling the reaction temperature between 35°-40° C., 25.2 g (0.16 mole) of β-methanesulfonamidoethyl chloride was added and the mixture was stirred for 1 hour. Finally, the solution was poured into a mixture of 100 ml of concentrated (36%) hydrochloric acid and 500 ml of water to separate a crystalline product, which was filtered. The crystalline product was purified by refluxing with methanol and, thus, 20.8 g of 1-hydroxy-4-(β-methanesulfonamidoethoxy)-2-naphthoic acid was obtained with a yield of 40%.

reactant | 1,4-dihydroxynaphthoic acid | 0.2 mole, 41 g | OC1(CC=C(C2=CC=CC=C12)O)C(=O)O | C11H10O4
reactant | methanol | CO | CH4O
reactant | sodium methoxide | 0.4 mole | C[O-].[Na+]
reactant | β-methanesulfonamidoethyl chloride | 0.16 mole, 25.2 g | CS(=O)(=O)NCCCl | C3H8ClNO2S
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-hydroxy-4-(β-methanesulfonamidoethoxy)-2-naphthoic acid | 20.8 g, yield of 40% | OC1=C(C=C(C2=CC=CC=C12)OCCNS(=O)(=O)C)C(=O)O | C14H15NO6S
